US09376429B2
Preparation of 5-chloro-2-fluoro-4-((6-(3-fluorophenyl)-4-(1-methyl-1H-pyrazol-5-yl)pyridin-3-yl)oxy)-N-(thiazol-4-yl)benzenesulfonamide
20 mg (0.03 mmol) of tert-butyl((5-chloro-4-((6-chloro-4-(1-methyl-1H-pyrazol-5-yl)pyridin-3-yl)oxy)-2-fluorophenyl)sulfonyl)(thiazol-4-yl)carbamate was dissolved in 3 mL of N,N-dimethylformamide, and 6.9 mg (0.05 mmol) of (3-fluorophenyl)boronic acid was added thereto, and then 3.8 mg (10 mol %) of Pd(PPh3)4, 10.5 mg (0.1 mmol) of Na2CO3, and 1 mL of H2O were added thereto. After reacting with microwave reactor at 120° C. for 10 minutes, the solvent was removed, and the remaining material was diluted with ethyl acetate and the organic layer was separated, and washed with saturated sodium chloride. The organic layer was collected, dried with magnesium sulfate to remove water, and concentrated under reduced pressure, and the residue was purified by column chromatography (developing solvent, hexane:ethyl acetate=3:1) to obtain 5 mg (27% yield) of the title compound.

reactant | tert-butyl((5-chloro-4-((6-chloro-4-(1-methyl-1H-pyrazol-5-yl)pyridin-3-yl)oxy)-2-fluorophenyl)sulfonyl)(thiazol-4-yl)carbamate | 0.03 mmol, 20 mg | C(C)(C)(C)OC(N(C=1N=CSC1)S(=O)(=O)C1=C(C=C(C(=C1)Cl)OC=1C=NC(=CC1C1=CC=NN1C)Cl)F)=O | C23H20Cl2FN5O5S2
reactant | (3-fluorophenyl)boronic acid | 0.05 mmol, 6.9 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | Na2CO3 | 0.1 mmol, 10.5 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | H2O | 1 mL | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | Pd(PPh3)4 | 3.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-chloro-2-fluoro-4-((6-(3-fluorophenyl)-4-(1-methyl-1H-pyrazol-5-yl)pyridin-3-yl)oxy)-N-(thiazol-4-yl)benzenesulfonamide | 5 mg, 27% yield | ClC=1C(=CC(=C(C1)S(=O)(=O)NC=1N=CSC1)F)OC=1C=NC(=CC1C1=CC=NN1C)C1=CC(=CC=C1)F | C24H16ClF2N5O3S2
